US08912188B2
To a solution of 6-bromochromane (400 mg, 1.88 mmol) in N,N-dimethylformamide (50 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (620 mg, 2.44 mmol), KOAc (552.1 mg, 5.63 mmol) and Pd(dppf)Cl2 (155 mg, 0.19 mmol) with stirring for 3 h at 95° C. maintained with an inert atmosphere of nitrogen in an oil bath. The reaction mixture was diluted with water, extracted with ethyl acetate (80 mL×3) and the organic layers combined, dried over anhydrous magnesium sulfate, concentrated under vacuum to give the residue, which was applied onto a silica gel column with 1% ethyl acetate in petroleum ether to afford 2-(chroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as colorless oil (320 mg, 59%).

reactant | 6-bromochromane | 1.88 mmol, 400 mg | BrC=1C=C2CCCOC2=CC1 | C9H9BrO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.44 mmol, 620 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 5.63 mmol, 552.1 mg | CC(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Pd(dppf)Cl2 | 0.19 mmol, 155 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(chroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 320 mg, 59% | O1CCCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C | C15H21BO3
